US04410539
A mixture of 6-(1-imidazolylmethyl)-4-methoxybenzo[b]thiophene-2-carboxylic acid methyl ester (100 mg.), 48% aqueous hydrobromic acid (2.0 ml.) and acetic acid (1.0 ml.) was heated under reflux for 4 hours and then evaporated. The residue was dissolved in water and the solution was basified with sodium hydroxide solution and filtered. The filtrate was acidified with acetic acid and the solid was filtered off, washed with water and dried to give 4-hydroxy-6-(1-imidazolylmethyl)benzo[b]thiophene-2-carboxylic acid (52 mg.), m.p. 297°-299° C.

reactant | 6-(1-imidazolylmethyl)-4-methoxybenzo[b]thiophene-2-carboxylic acid methyl ester | 100 mg | COC(=O)C1=CC2=C(S1)C=C(C=C2OC)CC=2NC=CN2 | C15H14N2O3S
reactant | hydrobromic acid | 2.0 ml | Br | BrH
solvent | acetic acid | 1.0 ml | C(C)(=O)O | C2H4O2
product | 4-hydroxy-6-(1-imidazolylmethyl)benzo[b]thiophene-2-carboxylic acid | 52 mg | OC1=CC(=CC=2SC(=CC21)C(=O)O)CC=2NC=CN2 | C13H10N2O3S
